US07262212B2
2-Chloro-4-nitro-1H-imidazole (1.29 g, 8.76 mmol), tert-butyl 4-{2-(1-oxa-6-azaspiro[2,5]octan-6-yl)-2-oxoethyl}piperazine-1-carboxylate (2.97 g, 8.76 mmol) and sodium hydrogencarbonate (809 mg, 9.64 mmol) in ethanol (10 ml) was stirred under reflux for 5 hours. The reaction mixture was concentrated under reduced pressure, and a saturated sodium hydrogencarbonate solution was added. The solution was extracted with methylene chloride. The organic phase was dried over magnesium sulfate and then filtered. The resulting filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (methylene chloride/methanol=100/1) to afford tert-butyl 4-{2-[4-(2-chloro-4-nitroimidazol-1-ylmethyl)-4-hydroxypiperidin-1-yl]-2-oxoethyl}piperazine-1-carboxylate (2.58 g, yield 61%) as a yellow oil.

reactant | 2-Chloro-4-nitro-1H-imidazole | 8.76 mmol, 1.29 g | ClC=1NC=C(N1)[N+](=O)[O-] | C3H2ClN3O2
reactant | tert-butyl 4-{2-(1-oxa-6-azaspiro[2,5]octan-6-yl)-2-oxoethyl}piperazine-1-carboxylate | 8.76 mmol, 2.97 g | O1CC12CCN(CC2)C(CN2CCN(CC2)C(=O)OC(C)(C)C)=O | C17H29N3O4
reactant | sodium hydrogencarbonate | 9.64 mmol, 809 mg | C(O)([O-])=O.[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | tert-butyl 4-{2-[4-(2-chloro-4-nitroimidazol-1-ylmethyl)-4-hydroxypiperidin-1-yl]-2-oxoethyl}piperazine-1-carboxylate | 2.58 g, yield 61% | ClC=1N(C=C(N1)[N+](=O)[O-])CC1(CCN(CC1)C(CN1CCN(CC1)C(=O)OC(C)(C)C)=O)O | C20H31ClN6O6
